US07906503B2
2-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethyl isopropylcarbamate
To a solution of 45 mg (0.073 mmol) of 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethyl 4-nitrophenyl carbonate in 3 mL of methylene chloride was added 0.3 mL of isopropylamine and stirred for 4 h at rt. The reaction mixture was then concentrated and the residue was purified by silica gel chromatography with hexanes/ethyl acetate=4:1 to afford the title compound as a white solid. 1NMR (CDCl3) δ 1.15 (d, 6H, J=5.7 Hz), 3.90 (br s, 1H), 3.99 (s, 2H), 4.06 (s, 2H), 4.54 (s, 1H), 4.74 (s, 2H), 6.68-6.74 (m, 3H), 7.29-7.39 (m, 8H); Mass Spectrum: m/e=531 (M+1 35Cl, 35Cl) and 533 (M+1 35Cl, 37Cl).

reactant | 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethyl 4-nitrophenyl carbonate | 0.073 mmol, 45 mg | C(OCC(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H22Cl2F2N2O5
reactant | isopropylamine | 0.3 mL | C(C)(C)N | C3H9N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethyl isopropylcarbamate | C(C)(C)NC(OCC(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C28H26Cl2F2N2O2
